US03984563
2-Acetylamino-3-(p-chlorophenyl)-1-methylindole.
To ten grams of 2-amino-3-(p-chlorophenyl)-1-methylindole hydrochloride in 80 ml. of pyridine, 5.4 ml. acetic anhydride are added under stirring at 20°-25° C. After five hours the pyridine is distilled off in vacuo at 40°-45° C and the oily residue solidifies with water. The product is crystallized from methanol. Yield 7.9 g. M.p. 196°-197° C.

reactant | 2-amino-3-(p-chlorophenyl)-1-methylindole hydrochloride | ten grams | Cl.NC=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)Cl)C
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Acetylamino-3-(p-chlorophenyl)-1-methylindole | C(C)(=O)NC=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)Cl)C | C17H15ClN2O
